US07241792B2
To a solution of 7-Cyclopropyl-hept-5-ene-1,2-diol (1.45 g, 9.28 mmol) in THF (30 mL) was added 60% sodium hydride (1.1 g, 27.84 mmol) at 0° C. The mixture was slowly warmed to room temperature and stirred for 1 h. TrisIm (3.41 g, 10.2 mmol) was added in one portion at 0° C. followed stirring at room temperature for 1.5 h. The mixture was quenched with water and extracted with Et2O. The organics were washed with brine, dried over MgSO4, filtered, and concentrated. Purification by silica gel chromatography (7% EtOAc in hexanes gradient to 14% EtOAc in hexanes) gave 2-(4-Cyclopropyl-but-2-enyl)-oxirane as a clear oil; 1H NMR (400 MHz, CDCl3): δ 5.54–5.48 (m, 1H), 5.44–5.37 (m, 1H), 2.94–2.91 (m, 1H), 2.75 (dd, 1H, J1=4.9 Hz, J2=4.1 Hz), 2.48 (dd, 1H, J1=5.0 Hz, J2=2.7 Hz), 2.19 (q, 2H, J=7.3 Hz), 1.98 (t, 2H, J=7.0 Hz), 1.62–1.56 (m, 2H), 0.75–0.66 (m, 1H), 0.44–0.39 (m, 2H), 0.09–0.05(m, 2H).

reactant | 7-Cyclopropyl-hept-5-ene-1,2-diol | 9.28 mmol, 1.45 g | C1(CC1)CC=CCCC(CO)O | C10H18O2
reactant | sodium hydride | 27.84 mmol, 1.1 g | [H-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(4-Cyclopropyl-but-2-enyl)-oxirane | C1(CC1)CC=CCC1OC1 | C9H14O
